US06313312B1
N-{3-[3-(2,3-Dihydro-1H-inden-2-ylmethyl)-6-methyl-3-azabicyclo[3.1.0]hex-6-yl]phenyl}methanesulfonamide
To a solution of N-{3-[3-(2,3-dihydro-1H-inden-2-ylcarbonyl)-6-methyl-3-azabicyclo[3.1.0]hex-6-yl]phenyl}methanesulfonamide (Preparation 115, 94 mg, 0.23 mmol) in anhydrous tetrahydrofuran (2 ml) under a nitrogen atmosphere at 0° C. was added dropwise lithium aluminium hydride (1.0M solution in tetrahydrofuran, 0.40 ml, 0.40 mmol) and the mixture was stirred at room temperature for 3 h. The rapidly stirred reaction mixture was treated sequentially with water (0.40 ml), sodium hydrogen carbonate (400 mg) and ethyl acetate (15 ml). After 30 min the reaction mixture was filtered and concentrated in vacuo to afford a colourless oil. This was purified by preparative HPLC (condition 8) to give a light brown oil which was partitioned between dichloromethane (10 ml) and aqueous potassium carbonate solution (4% w:v, 5 ml). The layers were separated and the organic layer was washed with water (3 ml) and saturated brine (2 ml), dried (Na2SO4), filtered and concentrated in vacuo to afford the title compound as a colourless oil (62 mg, 68%). The free base (55 mg, 0.14 mmol) was dissolved in anhydrous diethyl ether (5 ml) and dichloromethane (1 ml) and the solution was treated with hydrogen chloride (1.0M solution in diethyl ether, 0.153 ml). The heterogeneous suspension was concentrated in vacuo to afford the hydrochloride salt of the title compound as a white solid (50 mg, 83%).

reactant | N-{3-[3-(2,3-dihydro-1H-inden-2-ylcarbonyl)-6-methyl-3-azabicyclo[3.1.0]hex-6-yl]phenyl}methanesulfonamide | 0.23 mmol, 94 mg | C1C(CC2=CC=CC=C12)C(=O)N1CC2C(C2C1)(C)C=1C=C(C=CC1)NS(=O)(=O)C | C23H26N2O3S
reactant | lithium aluminium hydride | 0.40 mmol, 1.0M, 0.40 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.40 ml | O | H2O
reactant | sodium hydrogen carbonate | 400 mg | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
product | N-{3-[3-(2,3-Dihydro-1H-inden-2-ylmethyl)-6-methyl-3-azabicyclo[3.1.0]hex-6-yl]phenyl}methanesulfonamide | 62 mg, 68% | C1C(CC2=CC=CC=C12)CN1CC2C(C2C1)(C)C=1C=C(C=CC1)NS(=O)(=O)C | C23H28N2O2S
